US07064125B2
Synthesis of N-Benzo[1,3]dioxol-5-yl-6-chloro-N′-(4-chlorophenyl)-[1,3,5]triazine-2,4-diamine (CT-31978)
The reaction of 4,6-dichloro-N-(4-chlorophenyl)-[1,3,5]triazine-2-amine with 3,4-methylenedioxyaniline using the method described for the synthesis of CT-116433 provided CT-31978 (56 mg, 65% yield). 1H NMR (d6-DMSO) δ 10.08–10.37 (m, 2 H), 7.58–7.87 (m, 2 H), 7.21–7.40 (m, 3 H), 6.85–7.03 (m, 2 H), 6.00 (s, 2 H).

reactant | 4,6-dichloro-N-(4-chlorophenyl)-[1,3,5]triazine-2-amine | ClC1=NC(=NC(=N1)Cl)NC1=CC=C(C=C1)Cl | C9H5Cl3N4
reactant | 3,4-methylenedioxyaniline | C1OC=2C=C(N)C=CC2O1 | C7H7NO2
product | N-Benzo[1,3]dioxol-5-yl-6-chloro-N′-(4-chlorophenyl)-[1,3,5]triazine-2,4-diamine | 65% yield | O1COC2=C1C=CC(=C2)NC2=NC(=NC(=N2)NC2=CC=C(C=C2)Cl)Cl | C16H11Cl2N5O2
